US04719219
Example E17. (-)-(3-Decanoyloxyphenyl)-1-propylpiperidine hydrochloride
(-)-3-(3-hydroxyphenyl)-1-propylpiperidine hydrochloride (1.5 g, 5.86 mmol) was suspended in dry dichloromethane (15 ml). Decanoylchloride (1.2 g, 6.29 mmol) was dissolved in a mixture of dichloromethane (15 ml) and pyridine (0.5 g, 6.32 mmol). The solution was added to the suspension and the mixture was refluxed for 20 hours. The clear solution was cooled, washed with aqueous NaHCO and dried with Na2SO4. After evaporation the residual oil was dissolved in ether and precipitated as hydrochloride salt with one equivalent HCl in ether. The salt was recrystallized twice from acetone. Yield: 0.7 g (30%). M.p. 142°-144° C. [α]D20 (C=1.8, MeOH)=-5.6°, MS (70 eV): m/z 373 (5%), 344 (100%), 190 (7%).

reactant | (-)-3-(3-hydroxyphenyl)-1-propylpiperidine hydrochloride | 5.86 mmol, 1.5 g | Cl.OC=1C=C(C=CC1)C1CN(CCC1)CCC
reactant | Decanoylchloride | 6.29 mmol, 1.2 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | pyridine | 6.32 mmol, 0.5 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | one equivalent | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (-)-(3-Decanoyloxyphenyl)-1-propylpiperidine hydrochloride | Cl.C(CCCCCCCCC)(=O)OC=1C=C(C=CC1)C1N(CCCC1)CCC | InChI=1S/C24H39NO2.ClH/c1-3-5-6-7-8-9-10-17-24(26)27-22-15-13-14-21(20-22)23-16-11-12-19-25(23)18-4-2;/h13-15,20,23H,3-12,16-19H2,1-2H3;1H
